US04152522
Preparation of methyl 5-propylthio-2-benzimidazole carbamate--4-Thiocyano-2-nitroaniline was prepared as described in Example I using 13.8 g of o-nitroaniline and 18.3 g of ammonium thiocyanate dissolved in 80 ml of methanol and adding 17.6 g of bromine in 10 ml of methanol saturated with sodium bromide. After work up and filtering a wet cake of crude product weighing 44 g was obtained. This wet cake along with 32.5 g of n-propanol, 66.4 g of n-propyl bromide, 1.41 g of an aqueous solution of 75% methyl tributyl ammonium chloride, 104.6 g of an aqueous solution of 25% sodium cyanide and 175 ml of methylene chloride was refluxed with moderate agitation for 5 hours as described in Example III. The phases were separated, the volatile components were evaporated and the crude 4-propylthio-2-nitroaniline was added to a flask containing 88.2 g of sodium sulfide nonahydrate and 175 ml of water. The reaction mixture was refluxed for 13 hours as described in Example IV. After work up the methanol solution of crude 4-propylthio-o-phenylenediamine was added to the sodium salt of methyl cyanocarbamate which was prepared as in Example V from 4.35 g of cyanamide, 11.1 g of methyl chloroformate and 14.4 g of 50% aqueous sodium hydroxide. As in Example V, the methanol was removed, the pH was maintained at 4, the product was filtered and washed with water and acetone and allowed to air dry. The weight of crude dry product was 17.2 g which assayed 90% methyl 5-propylthio-2-benzimidazole carbamate, 58% yield from o-nitroaniline.

reactant | methyl 5-propylthio-2-benzimidazole carbamate | C(CC)SC1=CC2=C(N=C(N2)NC(=O)OC)C=C1 | C12H15N3O2S
reactant | o-nitroaniline | 13.8 g | [N+](=O)([O-])C1=C(N)C=CC=C1 | C6H6N2O2
reactant | ammonium thiocyanate | 18.3 g | [S-]C#N.[NH4+]
reactant | bromine | 17.6 g | BrBr | Br2
reactant | sodium bromide | [Br-].[Na+]
reactant | n-propyl bromide | 66.4 g | CCCBr | C3H7Br
reactant | sodium cyanide | [C-]#N.[Na+]
solvent | methanol | 80 ml | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
catalyst | methyl tributyl ammonium chloride | [Cl-].C[N+](CCCC)(CCCC)CCCC
solvent | methylene chloride | 175 ml | C(Cl)Cl | CH2Cl2
solvent | n-propanol | 32.5 g | C(CC)O | C3H8O
product | 4-Thiocyano-2-nitroaniline | 58% yield | S(C#N)C1=CC(=C(N)C=C1)[N+](=O)[O-] | C7H5N3O2S
